US03989746
In Monatsh, 71, pages 122-127 (1937), W. Knap reports that when 1-bromo-2-methylnaphthalene and anthranilic acid were heated in the presence of copper powder and potassium carbonate in nitrobenzene (boiling at 210° C.) to the boiling point of nitrobenzene, N-(2-methyl-1-naphthyl)-anthranilic acid was obtained in the form of a grayish yellow crystal having a melting point of 215°-216° C.

reactant | 1-bromo-2-methylnaphthalene | BrC1=C(C=CC2=CC=CC=C12)C | C11H9Br
reactant | anthranilic acid | C(C=1C(N)=CC=CC1)(=O)O | C7H7NO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | nitrobenzene | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
catalyst | copper | [Cu] | Cu
product | N-(2-methyl-1-naphthyl)-anthranilic acid | CC1=C(C2=CC=CC=C2C=C1)NC=1C(C(=O)O)=CC=CC1 | C18H15NO2
